US04515788
1-Chloroethyl propionate (0.6 g) was added to the mixture of 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (2.0 g) in dimethyl sulfoxide (13 ml) and potassium carbonate (0.3 g) and the mixture was stirred for 2 hours at 40° C. The reaction mixture was added to the mixture of ice-water and ethyl acetate and the mixture was adjusted to pH 7.5 with 20% aqueous solution of potassium carbonate. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated to give 1-propionyloxyethyl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate (syn isomer) (1.3 g).

reactant | 1-Chloroethyl propionate | 0.6 g | C(CC)(=O)OC(C)Cl | C5H9ClO2
reactant | 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid | 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=CSC1 | C27H22N4O7S2
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 13 ml | CS(=O)C | C2H6OS
product | 1-propionyloxyethyl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate | 1.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C)OC(CC)=O)C1=O)C=1N=CSC1 | C32H30N4O9S2
